US09326987B2
N-[5-[4-(5-{[4-(1-Methylethyl)-1-piperazinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]methanesulfonamide
To a solution of 6-bromo-4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazole (100 mg, 0.183 mmol) in 1,4-dioxane (2.5 ml) and water (0.250 ml) was added N-[2-(methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]methanesulfonamide (78 mg, 0.238 mmol), 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride (26.8 mg, 0.037 mmol) and potassium phosphate tribasic (117 mg, 0.550 mmol). The mixture was heated under microwave irradiation at 60° C. for 10 min, then the solvent was removed in vacuo and the residue partitioned between dichloromethane (5 ml) and water (5 ml), separated by hydrophobic frit and purified by silica (5 g) cartridge using a gradient of dichloromethane and methanol to give the title compound as a brown solid (122 mg).

reactant | 6-bromo-4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazole | 0.183 mmol, 100 mg | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=NN1)CN1CCN(CC1)C(C)C | C23H25BrN6O3S
reactant | N-[2-(methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]methanesulfonamide | 0.238 mmol, 78 mg | COC1=NC=C(C=C1NS(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C13H21BN2O5S
reactant | potassium phosphate tribasic | 0.550 mmol, 117 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.250 ml | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride | 0.037 mmol, 26.8 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | N-[5-[4-(5-{[4-(1-Methylethyl)-1-piperazinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]methanesulfonamide | 122 mg | CC(C)N1CCN(CC1)CC1=NN=C(O1)C1=C2C=NN(C2=CC(=C1)C=1C=C(C(=NC1)OC)NS(=O)(=O)C)S(=O)(=O)C1=CC=CC=C1 | C30H34N8O6S2
